US06451842B1
Preparation of 4-[{(N-(2-Amino-5-trifluoromethylbenzoyl)glycyl)amino}methyl]piperidine
4-[{(N-(2-Amino-4,5-difluorobenzoyl)glycyl)amino}methyl]piperidine, 4-[{N-(2-(tert-Butoxycarbonylamino)-5-trifluoromethoxybenzoyl)glycyl}aminomethyl]piperidine, 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl)amino}methyl]piperidine, and 4-[{(N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl)amino}methyl]piperidine were also prepared pursuant to the above method using the corresponding reactant, respectively.

reactant | 4-[{(N-(2-Amino-4,5-difluorobenzoyl)glycyl)amino}methyl]piperidine | NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C15H20F2N4O2
reactant | 4-[{N-(2-(tert-Butoxycarbonylamino)-5-trifluoromethoxybenzoyl)glycyl}aminomethyl]piperidine | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)OC(F)(F)F | C21H29F3N4O5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-[{(N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl)amino}methyl]piperidine | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)C(F)(F)F | C21H29F3N4O4
product | 4-[{(N-(2-Amino-5-trifluoromethylbenzoyl)glycyl)amino}methyl]piperidine | NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)C(F)(F)F | C16H21F3N4O2
